US06372740B1
Preparation of ethyl 3,4-dihydro-4-oxo-2-phenylpyrimidine-5-carboxylate
To a mixture of sodium methoxide (16.5 g) and anhydrous ethanol (200 ml) is added benzamidine hydrochloride (16 g) at 0-5° C. The mixture is stirred at 0° C. for 30 minutes, and thereto is added dropwise a solution of diethyl ethoxymethylenemalonate (20 g) in anhydrous ethanol (50 ml) at the same temperature. After the addition, the mixture is stirred at room temperature for 30 minutes, and refluxed for 6 hours. The reaction mixture is concentrated under reduced pressure, and the residue is dissolved in water. To the mixture is added with stirring and drowpise hydrochloric acid at 0-5° C. until the pH value of the mixture is adjusted to pH 4. The precipitates are collected by filtration, washed with water, washed with diethyl ether, and washed with ethanol to give the desired compound (17.5 g).

reactant | sodium methoxide | 16.5 g | C[O-].[Na+]
reactant | benzamidine hydrochloride | 16 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | diethyl ethoxymethylenemalonate | 20 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 3,4-dihydro-4-oxo-2-phenylpyrimidine-5-carboxylate | 17.5 g | O=C1NC(=NC=C1C(=O)OCC)C1=CC=CC=C1 | C13H12N2O3
